US03983246
In a second synthesis, 10 g of 4-methylbenzohydroximoyl chloride, 6.7 g of methanesulfonyl chloride, and 160 ml of benzene were mixed in a 250-ml, three-necked, round-bottomed flask equipped with a stirrer, thermometer, and drying tube. Triethylamine (8.8 g) was added dropwise during 6 minutes at 5°-10°, and the mixture was stirred at that temperature for 1 hour. The reaction mixture was filtered, the solid was washed with benzene, the washes and filtrate were combined and concentrated, and the concentrate was recrystallized from ethanol to give 9 g of N-(methanesulfonyloxy)-4-methylbenzimidoyl chloride, m.p. 100°-102°. The ir spectrum was consistent with the assigned structure.

reactant | 4-methylbenzohydroximoyl chloride | 10 g | CC1=CC=C(C(=NO)Cl)C=C1 | C8H8ClNO
reactant | methanesulfonyl chloride | 6.7 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | benzene | 160 ml | C1=CC=CC=C1 | C6H6
product | N-(methanesulfonyloxy)-4-methylbenzimidoyl chloride | 9 g | CS(=O)(=O)ON=C(C1=CC=C(C=C1)C)Cl | C9H10ClNO3S
